US05502187
N-(4'-Methoxyphenyl)-2,6-di-1-pyrrolidinyl-4-pyrimidinamine (V)
A mixture of 2.44 g of p-anisidine is heated to 135° (oil bath). The molten mixture is treated with 4-chloro-2,6-di-1-pyrrolidinylpyrimidine V, J. Med. Chem., 33,1145 (1990), 500 mg! and the reaction is stirred at 135° for 18 hr. The reaction mixture is allowed to cool and is then partitioned between chloroform and water. The organic layer is separated, washed with saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude product (1.93 g) is chromatographed on 180 g of mesh silica gel. The column is packed and eluted with dichloromethane/ethyl acetate (9/1). An initial fraction of 2000 ml is collected. The solvent system is then changed to ethyl acetate/dichloromethane (9/1) and 10 ml fractions are then collected. Based on their TLC homogeneity, fractions 5-25 are combined to give the title compound, which is recrystallized from ethanol/water and dried (18 hours, 0.01 mm, 40°), mp 162°-163°; IR (mineral oil) 3273, 2953, 2925, 2865, 2854, 1609, 1586, 1571, 1549, 1505, 1478, 1453, 1427, 1409, 1377, 1343, 1313, 1303, 1294, 1236, 1219, 1171, 1043, 821 and 788 cm-1 ; NMR (CDCl3, TMS) 7.30-7.20, 6.90-6.80, 6.19, 4.99, 4.03, 3.60-3.30 and 2.00-1.80δ; CMR (CDCl3, TMS) 161.9, 160.3, 155.6, 133.1, 123.9, 114.1, 72.6, 55.3, 46.1, 45.8, 25.4 and 25.1δ; MS M+ found=339, other ions 324, 311, 297, 283, 270, 242, 169, 148, 121, 70 and 55.

reactant | p-anisidine | 2.44 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | 4-chloro-2,6-di-1-pyrrolidinylpyrimidine | ClC1=NC(=NC(=C1)N1CCCC1)N1CCCC1 | C12H17ClN4
product | N-(4'-Methoxyphenyl)-2,6-di-1-pyrrolidinyl-4-pyrimidinamine | COC1=CC=C(C=C1)NC1=NC(=NC(=C1)N1CCCC1)N1CCCC1 | C19H25N5O
